US05877174
With 1.30 g of diphenylmethyl 4-(2,3-dioxopiperazin-1-yl)butyrate was reacted 0.63 ml of tert-butyl bromoacetate by the same method as in Reference Example 12 to obtain 1.48 g of diphenylmethyl 4-(4-tert-butoxycarbonylmethyl-2,3-dioxopiperazin-1-yl)butyrate as a yellow oil.

reactant | diphenylmethyl 4-(2,3-dioxopiperazin-1-yl)butyrate | 1.30 g | O=C1N(CCNC1=O)CCCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H22N2O4
reactant | tert-butyl bromoacetate | 0.63 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | diphenylmethyl 4-(4-tert-butoxycarbonylmethyl-2,3-dioxopiperazin-1-yl)butyrate | 1.48 g | C(C)(C)(C)OC(=O)CN1C(C(N(CC1)CCCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C27H32N2O6
